US07012077B2
A solution of 209 mg (corresponding to 0.50 mmol) of crude trans-Methanesulfonic acid 3-{4-[(5-bromo-pyrimidin-2-yl)-methyl-amino]-cyclohexyl}-propyl ester in 5 ml of methanol was treated with 0.89 ml (5 mmol) Dimethylamine (33% in EtOH, 5.6M) and stirred over night at RT. After the addition of 0.45 ml (2.5 mmol) Dimethylamine (33% in EtOH, 5.6M), the reaction was stirred for 66 h, then heated at 70° C. for 2 h, cooled, evaporated and the residue extracted with aqueous saturated NaHCO3/Et2O (3×). The organic phase was dried with Na2SO4, filtered and evaporated. Purification by flash column chromatography on silica gel (CH2Cl2/MeOH 97:3 to 94:6) gave 157 mg (88%) of trans-(5-Bromo-pyrimidin-2-yl)-[4-(3-dimethylamino-propyl)-cyclohexyl]-methyl-amine, MS: 355 (MH+, 1Br).

reactant | trans-Methanesulfonic acid 3-{4-[(5-bromo-pyrimidin-2-yl)-methyl-amino]-cyclohexyl}-propyl ester | 0.50 mmol, 209 mg | BrC=1C=NC(=NC1)N([C@@H]1CC[C@H](CC1)CCCOS(=O)(=O)C)C | C15H24BrN3O3S
reactant | Dimethylamine | 5 mmol, 5.6M, 0.89 ml | CNC | C2H7N
reactant | Dimethylamine | 2.5 mmol, 5.6M, 0.45 ml | CNC | C2H7N
solvent | methanol | 5 ml | CO | CH4O
product | trans-(5-Bromo-pyrimidin-2-yl)-[4-(3-dimethylamino-propyl)-cyclohexyl]-methyl-amine | 157 mg, 88% | BrC=1C=NC(=NC1)N(C)[C@@H]1CC[C@H](CC1)CCCN(C)C | C16H27BrN4
